US04859683
To a mixture of 18.22 g of sodium hydride (60% dispersed in mineral oil) and 200 ml THF is added dropwise at 0° C. a solution of 146 g of o-tosyloxyphenol in 100 ml of THF. The reaction mixture is allowed to come to room temperature overnight. The reaction mixture is then chilled and 20 ml of H2O is added slowly. The mixture is then diluted with ethyl acetate and with brine and water. The organic layer is dried (MgSO4), filtered, and concentrated purification by flash column chromatography affords 2,3,4,5-tetrahydro-1-benzoxepin.

reactant | sodium hydride | 18.22 g | [H-].[Na+]
reactant | o-tosyloxyphenol | 146 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=C(C=CC=C1)O | C13H12O4S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
solvent | H2O | 20 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2,3,4,5-tetrahydro-1-benzoxepin | O1CCCCC2=C1C=CC=C2 | C10H12O
